US08242285B2
To this solution was added 569.5 g of 1% hydrochloric acid and mixed, and liquid-partitioning was caused. An organic layer obtained by liquid-partitioning was washed with 262.5 g of a 5% sodium hydrogen carbonate aqueous solution, further washed with 262.5 g of water, then, 1652.8 g of a toluene solution containing 349.7 g (1.552 mol) of 3-tert-butoxycarbonyl-6,6-dimethyl-3-azabicyclo[3.1.0]hexan-2-one was obtained. The yield with respect to 6,6-dimethyl-3-azabicyclo[3.1.0]hexan-2-one was 99.4%.

reactant | hydrochloric acid | 569.5 g | Cl | ClH
reactant | 3-tert-butoxycarbonyl-6,6-dimethyl-3-azabicyclo[3.1.0]hexan-2-one | 1.552 mol, 349.7 g | C(C)(C)(C)OC(=O)N1C(C2C(C2C1)(C)C)=O | C12H19NO3
solvent | toluene | 1652.8 g | C1(=CC=CC=C1)C | C7H8
product | 6,6-dimethyl-3-azabicyclo[3.1.0]hexan-2-one | CC1(C2CNC(C12)=O)C | C7H11NO
